US07989438B2
Step 3: methyl 3-cyclohexyl-2-(2-hydroxy-4-methoxyphenyl)-1H-indole-6-carboxylate
3 M HCl (aq) (4 eq) was added to a stirred mixture of methyl 3-cyclohexyl-2-[4-methoxy-2-(methoxymethoxy)phenyl]-1H-indole-6-carboxylate in MeOH (0.05 M) and the mixture was stirred at 80° C. for 2 h. The mixture was cooled, solvents were concentrated in vacuo and the residue diluted with EtOAc, washed with sat. aq. NaHCO3, brine, dried (Na2SO4), filtered and the solvent was removed in vacuo to afford the title compound (95%). (ES+) m/z 380 (M+H)+.

reactant | HCl | 3 M, 4 eq | Cl | ClH
reactant | methyl 3-cyclohexyl-2-[4-methoxy-2-(methoxymethoxy)phenyl]-1H-indole-6-carboxylate | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C1=C(C=C(C=C1)OC)OCOC | C25H29NO5
solvent | MeOH | 0.05 M | CO | CH4O
product | methyl 3-cyclohexyl-2-(2-hydroxy-4-methoxyphenyl)-1H-indole-6-carboxylate | 95% | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C1=C(C=C(C=C1)OC)O | C23H25NO4
